*Visaton Woofers
.subckt W100S4Ohm in+ in- output
L1 N002 in- 15m
C1 N002 in- 470µ Rser=0.8
L2 N001 in+ 0.22m
R2 N002 N001 4
R1 in+ in- 30
B1 output 0 V=v(in+,in-) db freq=(100,78,0)(200,80,0)(300,80,0)(400,82,0)(500,84,0)(600,84,0)(1000,85,0)(2000,82,0)(3000,86,0)(4000,86,0)(5000,80,0)(6000,80,0)(7000,91,0)(9000,80,0)(10000,76,0)(14000,76,0)(15000,70,0)(20000,50,0)

.ends W100S4Ohm

.subckt W130S4Ohm in+ in- output
L1 N002 in- 20m
C1 N002 in- 470µ Rser=0.5
L2 N001 in+ 0.33m
R2 N002 N001 3.5
R1 in+ in- 25
B1 output 0 V=v(in+,in-) db freq=(100,80,0)(200,82,0)(300,82,0)(400,84,0)(500,84,0)(600,84,0)(1000,85,0)(1500,86,0)(2000,82,0)(3000,84,0)(4000,86,0)(5000,90,0)(5100,82,0)(6000,82,0)(7000,88,0)(8000,80,0)(9000,80,0)(10000,72,0)(14000,66,0)(15000,67,0)(20000,50,0)
.ends W130S4Ohm

.subckt W170S4Ohm in+ in- output
L1 N002 in- 18m
C1 N002 in- 1.05m Rser=0.35
L2 N001 in+ 0.4m
R2 N002 N001 3.2
R1 in+ in- 25
B1 output 0 V=v(in+,in-) db freq=(100,82,0)(200,84,0)(300,84,0)(400,86,0)(500,86,0)(600,86,0)(1000,88,0)(2000,84,0)(3000,88,0)(4000,88,0)(5000,90,0)(5500,93,0)(6000,91,0)(7000,84,0)(8000,80,0)(9000,76,0)(10000,78,0)(14000,68,0)(15000,58,0)(20000,50,0)
.ends W170S4Ohm

*Visaton Tweeters

.subckt CP13 in+ in- output
R1 in+ in- 3.3
B1 output 0 v=v(in+,in-) db freq=(500,10,0)(1000,64,0)(2000,80,0)(2500,87,0)(3000,88,0)(5000,90,0)(6000,94,0)(7000,90,0)(20000,88,0)
.ends CP13

.subckt SC4ND in+ in- output
R1 in+ in- 3.3
B1 output 0 v=v(in+,in-) db freq=(0,0,0)(150,50,0)(1000,85,0)(1200,90,0)(20000,90,0)
.ends SC4ND